US05223498
Reaction of 1-methyl-3-(2-acetoxyethyl)-2-imidazolidinone (13.4 g) in benzene (80 ml) with 4-(2-aminophenyl)morpholine (10.6 g) in benzene (80 ml) in the presence of phosphorus oxychloride (7 ml) for 30 hours at 80°-85° C. gave 4-((2-[1-methyl-3-(2-acetoxyethyl)-2-imidazolidinylideneamino]phenyl))morpholine.

reactant | 1-methyl-3-(2-acetoxyethyl)-2-imidazolidinone | 13.4 g | CN1C(N(CC1)CCOC(C)=O)=O | C8H14N2O3
reactant | 4-(2-aminophenyl)morpholine | 10.6 g | NC1=C(C=CC=C1)N1CCOCC1 | C10H14N2O
reactant | phosphorus oxychloride | 7 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 80 ml | C1=CC=CC=C1 | C6H6
product | 4-((2-[1-methyl-3-(2-acetoxyethyl)-2-imidazolidinylideneamino]phenyl))morpholine | CN1C(N(CC1)CCOC(C)=O)=NC1=C(C=CC=C1)N1CCOCC1 | C18H26N4O3
